US09079878B2
Ethyl (3-aminotetrahydro-2H-pyran-3-yl)acetate
Ethyl (2Z)-dihydro-2H-pyran-3(4H)-ylideneacetate (Preparation 37, 1.21 g, 7.11 mmol) was stirred in 1,4-dioxane (7 mL) in a microwave vial. A solution of 7M ammonia in methanol (5 mL) was added and the reaction heated for 3 hours at 150° C. in a Biotage Initiator™ microwave. A further solution of 7M ammonia in methanol (2 mL) was added and the reaction heated again for 2 hours at 150° C. in the microwave. The reaction was concentrated in vacuo and the residue dissolved in a further portion of 7M ammonia in methanol (10 mL) and heated for a further 5 hours at 150° C. in the microwave. The reaction was concentrated in vacuo to afford the title compound along with the methyl ester where trans-esterification had occurred. The material was used without further purification in the next step.

reactant | Ethyl (2Z)-dihydro-2H-pyran-3(4H)-ylideneacetate | 7.11 mmol, 1.21 g | O1C\C(\CCC1)=C/C(=O)OCC | C9H14O3
reactant | ammonia | 7M | N | H3N
reactant | ammonia | 7M | N | H3N
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | Ethyl (3-aminotetrahydro-2H-pyran-3-yl)acetate | NC1(COCCC1)CC(=O)OCC | C9H17NO3
